US05972975
By analogy to Example 56, Step B, 4-methyl-2-(2,5-dimethylpyrrol-1-yl)-6-(4-phenylbutyl)pyridine was treated with 4,6 equivalents of hydroxylamine hydrochloride and 2.8 equivalents of potassium hydroxide in refluxing ethanol/water to yield 2-amino-4-methyl-6-(4-phenylbutyl)pyridine as a yellow oil.

reactant | 4-methyl-2-(2,5-dimethylpyrrol-1-yl)-6-(4-phenylbutyl)pyridine | CC1=CC(=NC(=C1)CCCCC1=CC=CC=C1)N1C(=CC=C1C)C | C22H26N2
reactant | hydroxylamine hydrochloride | 4,6 equivalents | Cl.NO
reactant | potassium hydroxide | 2.8 equivalents | [OH-].[K+]
solvent | ethanol water | C(C)O.O
product | 2-amino-4-methyl-6-(4-phenylbutyl)pyridine | NC1=NC(=CC(=C1)C)CCCCC1=CC=CC=C1 | C16H20N2
